US05395815
Preparation Example 9: Preparation of 1-(4-hydroxyphenylthio)-n-octadecane (Example 31)
Under a nitrogen atmosphere, p-hydroxythiophenol (126 g) was dissolved in N,N-dimethylformamide (600 ml) and thereto was added potassium carbonate (152 g). Thereto was added octadecyl chloride (318 g), followed by heating at 80° C. for 2 hours. After completion of the reaction, the reaction mixture was poured into water to precipitate a white solid. Thereto was added 5% hydrochloric acid to adjust the pH to acidic state and then, the white solid was filtered off under reduced pressure and then recrystallized from methyl ethyl ketone to obtain the desired product (261 g). Yield 70%; m.p. 95° C.

reactant | p-hydroxythiophenol | 126 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 152 g | C([O-])([O-])=O.[K+].[K+]
reactant | octadecyl chloride | 318 g | C(CCCCCCCCCCCCCCCCC)Cl | C18H37Cl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 1-(4-hydroxyphenylthio)-n-octadecane | 261 g, Yield 70% | OC1=CC=C(C=C1)SCCCCCCCCCCCCCCCCCC | C24H42OS
